US07230011B2
5-Methoxy-7-methyl-1H-indole
To a solution of 4-methoxy-2-methylanaline (0.36 mole, 50.0 g) in methylene chloride (450 mL) cooled to 10° C. (acetone/ice) was added a solution of 1.0 M boron trichloride in methylene chloride (0.50 mole, 500 mL) while maintaining the reaction temperature below −10° C. Chloroacetonitrile (1.82 mole, 137.6 g) was added to the reaction while maintaining the internal temperature below 0° C. This was followed by the addition of diethylaluminum chloride (0.40 mole, 48.34 g, 50 mL) while maintaining the reaction temperature below 0° C. The solution was then refluxed for 5.25 hours. The reaction was cooled to room temperature and carefully treated with 5N hydrochloric acid (0.450 L) and water (1 L). The suspension was heated to reflux and cooled to room temperature. The phases were separated and the aqueous phase was extracted with methylene chloride (3×500 mL). The combined organic phases were filtered through a pad of silica (height of silica=8 cm) in a scintered glass funnel (inner diameter of funnel=12 cm). Material eluted from silica pad with methylene chloride (3×500 mL) to afford 1-(2-amino-5-methoxy-3-methylphenyl)-2-chloroethanone plus chloroacetonitrile. The mixture was concentrated in vacuo to afford 40.1 g (51%) 1-(2-amino-5-methoxy-3-methylphenyl)-2-chloroethanone that slowly crystallized. A solution of 1-(2-amino-5-methoxy-3-methylphenyl)-2-chloroethanone (0.19 mole, 40.1 g) in 9:1 dioxane:water (935 mL) was added sodium borohydride (0.19 mole, 7.1 g). The reaction was stirred one hour at room temperature refluxed for 4.5 hours. The reaction was cooled to room temperature and treated with 1N hydrochloric acid (310 mL). This mixture was heated to 80° C. and cooled to room temperature. The reaction was treated with water (500 mL), extracted with ethyl acetate (3×500 mL) and the organic phases were combined, concentrated in vacuo to afford an oil. The oil was dissolved in methylene chloride and filtered through a pad of silica (height of silica=10 cm) in a scinter glass funnel (inner diameter of funnel=14.5 cm). Material eluted with methylene chloride. Fractions containing the title compound were combined, concentrated in vacuo to afford 23.32 g (77%) of the title compound as an oil: mass spectrum (ion spray): m/z=161 (M); 1H NMR (DMSOd6): 7.25 (t, J=2.93 Hz, 1H), 6.84 (d, J=2.20 Hz, 1H), 6.53 (d, J=1.46 Hz, 1H), 6.32 (dd, J=2.93, 1.83 Hz, 1H), 3.71 (s, 3H), 2.41 (s, 3H).

reactant | 1-(2-amino-5-methoxy-3-methylphenyl)-2-chloroethanone | 0.19 mole, 40.1 g | NC1=C(C=C(C=C1C)OC)C(CCl)=O | C10H12ClNO2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | sodium borohydride | 0.19 mole, 7.1 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 310 mL | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | 500 mL | O | H2O
solvent | water | 935 mL | O | H2O
product | 5-Methoxy-7-methyl-1H-indole | 23.32 g, 77% | COC=1C=C2C=CNC2=C(C1)C | C10H11NO
